US07247643B2
(2R,3S)-(8-Methyl-3-(2thienyl)-8-aza-bicyclo[3.2.1]oct-2-yl)-methanol
To a mixture of (2R,3S)-8-methyl-3-(2-thienyl)-8-aza-bicyclo[3.2.1]octane-2-carboxylic acid ethyl ester (3.65 g, 13.75 mmol) and toluene (75 ml), Red-Al (6 ml, 65%, 20 mmol) was added at 0° C. The mixture was stirred at 0° C. for 1 h. A solution of aqueous sodium hydroxide (20 ml, 4 M) was added dropwise followed by warm water (50° C., 150 ml). The mixture was extracted with toluene (2×100 ml). The mixture was dried (MgSO4) and evaporated. The product was isolated as crystals. Mp: 153.7-157.5° C. Yield 2.04 g (63%).

reactant | (2R,3S)-8-methyl-3-(2-thienyl)-8-aza-bicyclo[3.2.1]octane-2-carboxylic acid ethyl ester | 13.75 mmol, 3.65 g | C(C)OC(=O)[C@H]1C2CCC(C[C@@H]1C=1SC=CC1)N2C | C15H21NO2S
reactant | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
reactant | Red-Al | 20 mmol, 6 ml | COCCO[AlH2-]OCCOC.[Na+]
reactant | sodium hydroxide | 4 M, 20 ml | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | (2R,3S)-(8-Methyl-3-(2thienyl)-8-aza-bicyclo[3.2.1]oct-2-yl)-methanol | CN1C2[C@@H]([C@H](CC1CC2)C=2SC=CC2)CO | C13H19NOS
